datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:22])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[H:23])([H:19])([H:20])[H:21],74.0568
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:24]([C:23]([H:26])([H:27])[H:28])([C:25]([H:30])([H:31])[H:32])[H:29])[H:14])[H:13])([H:11])[H:12],20.3761
[O:0]([O:1][H:3])[H:2].[S:4][H:5]>>[O:0]([H:2])[S:4][H:5].[O:1][H:3],41.124536
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:31])([H:32])[H:33]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:23]([C:22]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41],51.8816
[C:0]([O:1][H:4])([H:2])[H:3].[C:5](=[C:6]([H:8])[H:9])[H:7]>>[C:0](=[O:1])([H:2])[H:3].[H:4][C:5](=[C:6]([H:8])[H:9])[H:7],0.0
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])([H:16])([H:17])[H:18]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:16])([H:17])[H:18])([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24],46.4424
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]#[C:10][H:23])[H:22])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([C:9]#[C:10][H:23])[H:22])[H:21])[H:11],46.4424
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:7])[H:8],57.8229
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]=[C:9]([S:10][H:12])[H:11]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:11])([H:3])[H:4].[S:8]=[C:9][S:10][H:12],-9.6232
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13]([H:20])([H:21])[H:22])[C:14](=[C:15]([H:24])[H:25])[H:23])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:16])[H:17])[H:18])[H:19])([C:13]([H:20])([H:21])[H:22])[C:14](=[C:15]([H:24])[H:25])[H:23])[H:4],34.6017
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:5][C:6]([C:7]([H:20])([H:21])[H:22])=[O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19])[H:13])([H:9])([H:10])[H:11].[O:5]=[C:6]([C:7]([H:20])([H:21])[H:22])[O:8][H:12],164.8496
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([S:12][H:18])[C:13](=[S:14])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:15])([H:16])[H:17])([S:12][H:18])[C:13](=[S:14])[H:19],56.484
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]1([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18],102.215
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([H:20])([H:21])[H:22])[c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]([C:11]([H:20])([H:21])[H:22])[c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])([H:18])[H:19])[H:4],30.8361
[C:0]([S:1])([H:2])([H:3])[H:4].[S:5]([c:6]1[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17])[H:12]>>[C:0]([S:1][H:12])([H:2])([H:3])[H:4].[S:5][c:6]1[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17],-3.3472
